US07968573B2
To a mixture of 0.25 g of 3-chloro-2-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)pyridine and 5 ml of tetrahydrofuran was added dropwise 0.50 ml of a 2.0M lithium diisopropylamide solution in heptane/tetrahydrofuran/ethylbenzene at −78° C. and the mixture was stirred at −78° C. for 15 minutes. Carbon dioxide was introduced into the mixture at such a rate that an inner temperature was maintained at −60° C. or lower and, after the mixture turned yellow, the mixture was further stirred at −78° C. for 10 minutes. The temperature of the reaction mixture was raised to room temperature, followed by concentration. A 2N aqueous sodium hydroxide solution was added to adjust the pH of the aqueous layer to 10 to 12, the layers were separated, and the organic layer was extracted with a 0.5N aqueous sodium hydroxide solution. The aqueous layers were combined, and washed with chloroform, and 2N hydrochloric acid was added so that the pH of the aqueous layer became about 3, followed by extraction with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure to obtain 0.13 g of crude 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-1,2,4-triazole 5-carboxylic acid of the formula:

reactant | 3-chloro-2-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)pyridine | 0.25 g | ClC=1C(=NC=CC1)N1N=C(N=C1)C(F)(F)F | C8H4ClF3N4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | lithium diisopropylamide | 2.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | heptane tetrahydrofuran ethylbenzene | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
product | 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-1,2,4-triazole 5-carboxylic acid | 0.13 g | ClC=1C(=NC=CC1)N1N=C(N=C1C(=O)O)C(F)(F)F | C9H4ClF3N4O2
